US07772221B2
(S)-2-((R)-N,2-dimethylhexanamido)pent-4-enoic acid (diastereomer B)
Step D (3): General procedure: Sodium hydride (60% dispersion in mineral oil, 231 mg, 5.79 mmol) was carefully added portionwise to a solution of (S)-2-((S)-2-methylhexanamido)pent-4-enoic acid (diastereomer A from Step D (2), 440 mg, 1.93 mmol) and iodomethane (961 μL, 15.4 mmol) in THF (25 mL) at 0° C. The resulting mixture was allowed to warm to rt and stirred overnight (18 h). The reaction was chilled to 0° C. and quenched with EtOAc. The mixture was diluted with water and poured into 1 N NaOH. The aqueous layer was extracted with diethyl ether. The aqueous layer was then acidified with 1 N HCl and extracted with EtOAc. The second organic extract was sequentially washed with aqueous sodium bisulfite solution and brine solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to provide 370 mg (80% yield) of the title compound (diastereomer A) as a clear viscous oil. Diastereomer B from Step D (2) was subject to the same procedure to afford 580 mg (97% yield) of the title compound (diastereomer B) as a clear viscous oil. Data for diastereomer A: LRMS (M−H)−=240.1 1H NMR (500 MHz, CDCl3) δ ppm 0.82-0.90 (m, 3H) 1.05-1.13 (m, 3H) 1.17-1.42 (m, 5H) 1.62-1.73 (m, 1H) 2.52-2.61 (m, 1H) 2.63-2.87 (m, 2H) 2.99 (d, J=3.36 Hz, 3H) 5.00-5.16 (m, 3H) 5.64-5.76 (m, 1H). Data for diastereomer B: LRMS (M−H)−=240.2; 1H NMR (500 MHz, CDCl3) δ ppm 0.82-0.90 (m, 3H) 1.10 (dd, J=11.29, 6.71 Hz, 3H) 1.17-1.43 (m, 5H) 1.60-1.75 (m, 1H) 2.52-2.83 (m, 3H) 2.99 (d, J=3.05 Hz, 3H) 5.01-5.16 (m, 3H) 5.63-5.77 (m, 1H).

reactant | Sodium hydride | 5.79 mmol, 231 mg | [H-].[Na+]
reactant | (S)-2-((S)-2-methylhexanamido)pent-4-enoic acid | C[C@H](C(=O)N[C@H](C(=O)O)CC=C)CCCC | C12H21NO3
reactant | iodomethane | 15.4 mmol, 961 μL | IC | CH3I
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)-2-((R)-N,2-dimethylhexanamido)pent-4-enoic acid | 370 mg, 80% yield | CN(C([C@@H](CCCC)C)=O)[C@H](C(=O)O)CC=C | C13H23NO3
